US08557840B2
A solution of 2,6-dichloro-nicotinic acid methyl ester (1.5 g), methylamine (0.99 ml) (33% by weight in ethanol) and diisopropylethylamine (“Hunig's base”) (1.38 ml) was heated in a microwave for 10 minutes at 120° C. The reaction mixture was partitioned between ethyl acetate and water. The phases were separated and the organic layer was concentrated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane 1:9) to give 6-chloro-2-methylamino-nicotinic acid methyl ester as a white solid (915 mg). 1H-NMR (400 MHz, CDCl3): 8.03 (bs, 1H), 7.99-8.01 (d, 1H), 6.49-6.51 (d, 1H), 3.86 (s, 3H), 3.05-3.06 (d, 3H) ppm.

reactant | 2,6-dichloro-nicotinic acid methyl ester | 1.5 g | COC(C1=C(N=C(C=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | methylamine | 0.99 ml | CN | CH5N
reactant | diisopropylethylamine | 1.38 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 6-chloro-2-methylamino-nicotinic acid methyl ester | 915 mg | COC(C1=C(N=C(C=C1)Cl)NC)=O | C8H9ClN2O2
